US04465508
(b) Preparation of 3(2-chloro-5-trifluoromethylphenoxy)benzoic acid
3-Hydroxybenzoic acid (3.45 g) was added to a solution of potassium hydroxide (2.8 g) in methanol. The solution was evaporated under reduced pressure to give a white solid. This was taken up in dry dimethylsulphoxide (25 ml). The resulting solution was stirred and heated at 170° with anhydrous potassium carbonate (1.25 g) and 4-chloro-3-fluorobenzotrifluoride (5 g) for 12 hours. The mixture was then cooled and poured into water, (500 ml). The mixture was extracted with ether and then acidified (HCl). The precipitate which formed was recrystallised from petroleum (b.p. 60°-80°) to give the required acid (4.5 g) with a melting point of 142°-143°.

reactant | 3-Hydroxybenzoic acid | 3.45 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | potassium hydroxide | 2.8 g | [OH-].[K+]
reactant | potassium carbonate | 1.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-3-fluorobenzotrifluoride | 5 g | ClC1=C(C=C(C=C1)C(F)(F)F)F | C7H3ClF4
solvent | methanol | CO | CH4O
solvent | dimethylsulphoxide | 25 ml | CS(=O)C | C2H6OS
solvent | water | 500 ml | O | H2O
product | 3(2-chloro-5-trifluoromethylphenoxy)benzoic acid | 4.5 g | ClC1=C(OC=2C=C(C(=O)O)C=CC2)C=C(C=C1)C(F)(F)F | C14H8ClF3O3
